data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2048,2273,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[NH:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20](=[O:21])[NH:22][CH3:23])[N:24]([CH3:25])[C:26]2([CH3:27])[C:28]([CH3:29])=[O:30],water,298.15,25.775323413381592,-24.801193152266112
1828,2026,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([CH3:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1.[O:17]=[c:18]1[n-:19][nH+:20][c:21](-[c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[o:28]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([CH3:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]1([c:22]3[cH:23][cH:24][cH:25][cH:26][cH:27]3)[NH:20][N:19]2[C:18](=[O:17])[O:28]1,water,298.15,34.279223375808265,6.925565658692403
2813,3127,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([N+:21]#[C:22][C:23]([CH3:24])=[O:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:22]([C:23]([CH3:24])=[O:25])=[N:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:26](=[O:27])[O:28][CH3:29],water,298.15,16.629928344610093,-46.52632876420223
1290,1412,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[NH:16][C:17]2([C:18]#[N:19])[C:20]([CH3:21])=[O:22],water,298.15,20.58067772004535,-26.53962629156897
1029,1122,[CH3:11][O:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:16]=[C:17]2[C:18]#[N:19],water,298.15,11.059939357153905,-42.61678273379261
2843,3159,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[C:28](=[O+:29][C-:30]([C:31]#[N:32])[C:33]([CH3:34])=[O:35])[C:36]([CH3:37])=[O:38]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([O:25][CH3:24])=[O:27])([C:36]([CH3:37])=[O:38])[O:29][C:30]2([C:31]#[N:32])[C:33]([CH3:34])=[O:35],water,298.15,11.552538521559956,-54.93923503477373
2724,3025,[CH3:14][O:15][C:16](=[O:17])[C:18]#[N+:19][C-:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:18]([C:16]([O:15][CH3:14])=[O:17])=[N:19][C:20]2([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,10.429813814642976,-57.53111029360012
426,464,[CH3:13][c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][O:2]/[C:3]([C:4]([CH3:5])=[O:6])=[C:7](/[O:8][CH3:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][O:2][C@@:3]1([C:4]([CH3:5])=[O:6])[C@@:7]([O:8][CH3:9])([C:10]([CH3:11])=[O:12])[C:16]2([CH3:17])[NH:15][C:14]1([CH3:13])[O:20][C:18]2=[O:19],water,298.15,24.11720904289046,1.861223313029502
985,1070,[CH3:12][O:13][C:14](=[O:15])[C:16]([CH3:17])=[NH+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[NH:18][C:16]3([C:14]([O:13][CH3:12])=[O:15])[CH3:17],water,298.15,17.78286241856416,-26.613540060440744
4302,4921,[CH3:9][O:10][C:11](=[O:12])[C-:13]([NH+:14]=[C:15]([C:16]#[N:17])[C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:21]([CH3:22])=[O:23])[NH:14][C:15]1([C:16]#[N:17])[C:18]([CH3:19])=[O:20],water,298.15,27.99531287064199,-15.049392684729812
4210,4815,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][c:16]([C:17]([CH3:18])=[O:19])[o:20][c:21]1=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]2([C:17]([CH3:18])=[O:19])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:21](=[O:22])[O:20]2,water,298.15,15.842008564157592,-17.536099325711294
